US06326495B2
3-Methoxy-1-(4-methoxybenzyl)-4-propionyl-5,6-dihydro-1H-pyridin-2-one (7.0.0)
3-Hydroxy-1-(4-methoxybenzyl)-4-propionyl-5,6-dihydro-1H-pyridin-2-one (17.35 kg, 60 moles) and cesium carbonate (22.126 kg, 67.9 moles) were added to dry dimethylformamide (24 gal, 90.8 L) in a clean, dry 100 gallon tank. The suspension was stirred a half hour to insure dispersion. Dimethyl sulfate (8.552 kg, 67.8 moles) was added neat over a period of 30 minutes keeping the temperature 20-25° C. When the charge was complete the addition funnel was rinsed into the tank with additional DMF (500 ml). The reaction was allowed to stir at 20-25° C. for 16 hours. The reaction was diluted with ethyl acetate (108 gal, 408.8 L) and was washed with water (4×22 gal (83.3 L)). The ethyl acetate solution was washed with a solution made up of 6.94 liters 50% sodium hydroxide in 22 gal (83.3 L) of water followed by washing with a solution made up with 6.94 liters of concentrated HCl in 22 gal (83.3 L) of water. The organic solution was dried by washing with brine (14 gal, 53 L) The ethyl acetate was vacuum stripped to an oil which was suitable for use in the next step. The estimated yield based on NMR analysis of residual solvent was 89%. A small sample was isolated for characterization.

reactant | 3-Hydroxy-1-(4-methoxybenzyl)-4-propionyl-5,6-dihydro-1H-pyridin-2-one | 60 moles, 17.35 kg | OC=1C(N(CCC1C(CC)=O)CC1=CC=C(C=C1)OC)=O | C16H19NO4
reactant | cesium carbonate | 67.9 moles, 22.126 kg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Dimethyl sulfate | 67.8 moles, 8.552 kg | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethylformamide | 90.8 L | CN(C=O)C | C3H7NO
product | 3-Methoxy-1-(4-methoxybenzyl)-4-propionyl-5,6-dihydro-1H-pyridin-2-one | COC=1C(N(CCC1C(CC)=O)CC1=CC=C(C=C1)OC)=O | C17H21NO4
